US07217710B2
1-Methyl-6-methylsulfanyl-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one (2.0 g, 0.01 mol) was refluxed with phosphorus oxybromide (6 g) in acetonitrile (60 mL). Water (100 mL) was then added and the reaction mixture cooled to 5° C., hold for 1 hour and filtered to give 1.6 g (61%) of pure 3-bromo-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine; 1H-NMR (DMSO): δ 2.61 (s, 3H), 3.96 (s, 3H), 9.00 (s, 1H), LC/MS (m/e)=260.8 (MH+), Rt=1.89 min.

reactant | 1-Methyl-6-methylsulfanyl-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one | 0.01 mol, 2.0 g | CN1NC(C=2C1=NC(=NC2)SC)=O | C7H8N4OS
reactant | phosphorus oxybromide | 6 g | P(=O)(Br)(Br)Br | Br3OP
reactant | Water | 100 mL | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3-bromo-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 1.6 g, 61% | BrC1=NN(C2=NC(=NC=C21)SC)C | C7H7BrN4S
